US07196111B2
To an ice cold mixture of 40 mg (0.13 mmol) of 7-cyclohexyl-6-(4-hydroxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile in 3 mL of tetrahydrofuran (THF) was added 74 mg (0.52 mmol) of (2,4-dimethyl-thiazol-5-yl)-methanol, 136 mg (0.52 mmol) of triphenylphosphine (PPh3), followed by 0.102 mL (0.52 mmol) of diisopropyl azodicarboxylate (DIAD) and the mixture was allowed to warm up to rt and stirred at rt overnight. The reaction mixture was then concentrated and the residue was chromatographed on silica gel (Biotage; 10% ethyl acetate in DCM) to give desired 7-cyclohexyl-6-[4-(2,4-dimethyl-thiazol-5-ylmethoxy)-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carbonitrile as indicated by 1H-NMR; LC-MS—calcd for C25H25N5OS [M++H]+: 444.18, found: 444.2.

reactant | 7-cyclohexyl-6-(4-hydroxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.13 mmol, 40 mg | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C#N)C2=CC=C(C=C2)O | C19H18N4O
reactant | (2,4-dimethyl-thiazol-5-yl)-methanol | 0.52 mmol, 74 mg | CC=1SC(=C(N1)C)CO | C6H9NOS
reactant | triphenylphosphine | 0.52 mmol, 136 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.52 mmol, 0.102 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 7-cyclohexyl-6-[4-(2,4-dimethyl-thiazol-5-ylmethoxy)-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C#N)C2=CC=C(C=C2)OCC2=C(N=C(S2)C)C | C25H25N5OS
